US05654326
A solution of 44.4 g (344 mmol) of 3-methoxy-2-methylaniline and 75 g (344 mmol) of di-tert-butyl dicarbonate in 400 mL of THF was heated to maintain reflux for 4 hours. After concentrating at reduced pressure, the residue was taken up in ethyl acetate, washed with 1N citric acid, water and dried (MgSO4). After removing the solvent at reduced pressure, the residue was crystallized from hexane to give 64.5 g (84% yield) of N-tert-butoxycarbonyl-3-methoxy-2-methylaniline, mp, 56°-57° C.

reactant | 3-methoxy-2-methylaniline | 344 mmol, 44.4 g | COC=1C(=C(N)C=CC1)C | C8H11NO
reactant | di-tert-butyl dicarbonate | 344 mmol, 75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-3-methoxy-2-methylaniline | 64.5 g, 84% yield | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C | C13H19NO3
